US06716851B2
4-(2-Methoxy-5-methylanilino)-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine
The title compound was prepared from 4-chloro-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine (40 mg, 0.152 mmol) and 2-methoxy-5-methylaniline (28 mg, 0.231 mmol) similar to example 180 and was isolated as a solid (43 mg, 81%). 1H NMR (CDCl3): 9.73 (m, 1H), 8.44-8.41 (m, 1H), 7.81-7.75 (m, 1H), 7.46 (s, 1H), 7.34-7.28 (m, 2H), 7.23 (t, J=8.1 Hz, 1H), 7.09-7.06 (m, 1H), 7.00-6.97 (m, 1H), 6.55 (d, J=0.6 Hz, 1H), 2.44 (s, 3H), 2.43 (d, J=0.6, 3H).

reactant | 4-chloro-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine | 0.152 mmol, 40 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=NC=CN=C1 | C9H4ClF3N4
reactant | 2-methoxy-5-methylaniline | 0.231 mmol, 28 mg | COC1=C(N)C=C(C=C1)C | C8H11NO
product | 4-(2-Methoxy-5-methylanilino)-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine | COC1=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=NC=CN=C2)C=C(C=C1)C | C17H14F3N5O
